US08314109B2
A suspension of 117 mg of 6-[4-(hydroxymethyl)pyrid-2-yl]-N-phenylimidazo[1,2-a]pyridine-2-carboxamide in 2 mL of methanol is treated with 0.68 mL of aqueous 0.5 N hydrochloric acid solution. The mixture is stirred for 16 hours at room temperature and then evaporated to dryness under reduced pressure. The solid obtained is triturated in methanol, filtered off and dried to give 91 mg of 6-[4-(hydroxymethyl)pyrid-2-yl]-N-phenylimidazo[1,2-a]pyridine-2-carboxamide hydrochloride (1:1).

reactant | 6-[4-(hydroxymethyl)pyrid-2-yl]-N-phenylimidazo[1,2-a]pyridine-2-carboxamide | 117 mg | OCC1=CC(=NC=C1)C=1C=CC=2N(C1)C=C(N2)C(=O)NC2=CC=CC=C2 | C20H16N4O2
reactant | hydrochloric acid | 0.5 N | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
product | 6-[4-(hydroxymethyl)pyrid-2-yl]-N-phenylimidazo[1,2-a]pyridine-2-carboxamide hydrochloride | 91 mg | Cl.OCC1=CC(=NC=C1)C=1C=CC=2N(C1)C=C(N2)C(=O)NC2=CC=CC=C2 | InChI=1S/C20H16N4O2.ClH/c25-13-14-8-9-21-17(10-14)15-6-7-19-23-18(12-24(19)11-15)20(26)22-16-4-2-1-3-5-16;/h1-12,25H,13H2,(H,22,26);1H
